US09063421B2
The polymer used herein may be synthesized by any desired methods, for example, by dissolving acetoxystyrene and amyloxystyrene monomers in an organic solvent, adding a radical initiator thereto, effecting heat polymerization, and subjecting the resulting polymer to alkaline hydrolysis in the organic solvent to deprotect the acetoxy group, thereby obtaining a hydroxystyrene-amyloxystyrene copolymer. Examples of the organic solvent which can be used for polymerization include toluene, benzene, tetrahydrofuran, diethyl ether and dioxane. Examples of the polymerization initiator used herein include 2,2′-azobisisobutyronitrile (AIBN), 2,2′-azobis(2,4-dimethylvaleronitrile), dimethyl 2,2-azobis(2-methylpropionate), benzoyl peroxide, and lauroyl peroxide. Preferably the system is heated at 50 to 80° C. for polymerization to take place. The reaction time is 2 to 100 hours, preferably 5 to 20 hours. For the alkaline hydrolysis, aqueous ammonia, triethylamine or the like may be used as the base. The reaction temperature is −20° C. to 100° C., preferably 0° C. to 60° C., and the reaction time is 0.2 to 100 hours, preferably 0.5 to 20 hours.

reactant | acetoxystyrene | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | amyloxystyrene | C(CCCC)OC=CC1=CC=CC=C1 | C13H18O
product | hydroxystyrene amyloxystyrene | OC=CC1=CC=CC=C1.C(CCCC)OC=CC1=CC=CC=C1 | InChI=1S/C13H18O.C8H8O/c1-2-3-7-11-14-12-10-13-8-5-4-6-9-13;9-7-6-8-4-2-1-3-5-8/h4-6,8-10,12H,2-3,7,11H2,1H3;1-7,9H
